US08629271B2
b) Benzo[d]thiazol-2-yl(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone
Trifluoroacetic acid (5 mL) was added to a solution of tert-butyl 4-(benzo[d]thiazole-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate (example 106, step a) (0.83 g) in DCM (15 mL) and the resulting mixture was stirred for 25 minutes. The solvent was evaporated in vacuo. The residue was dissolved in DCM:methanol (1:1) (5 mL) and applied to a SCX cartridge pre-wetted with DCM:methanol (1:1). The cartridge was washed with methanol (60 mL) and eluted with 2M ammonia in methanol solution (40 mL). The eluent was evaporated in vacuo to give the subtitled compound as a colourless oil. Yield 0.57 g.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(benzo[d]thiazole-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | S1C(=NC2=C1C=CC=C2)C(=O)N2CCOC1(C2)CCN(CC1)C(=O)OC(C)(C)C | C21H27N3O4S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Benzo[d]thiazol-2-yl(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone | S1C(=NC2=C1C=CC=C2)C(=O)N2CCOC1(C2)CCNCC1 | C16H19N3O2S
